US05036107
A mixture of paraformaldehyde (7.14 g, 238 mmol), diisopropylamine (19.1 ml, 262 mmol) and cupric acetate monohydrate (1 g) in dioxane (40 ml) was heated in an oil bath of 60° C. for 1 hour. When the solid material disapeared, pent-4-yn-1-ol (20.02 g, 238 mmol) was added and the heating at 95° C. was continued until the greenish suspension had been completely replaced by a thin brown precipitate (approximately 3 hours). After cooling to 20° C., the reaction mixture was poured into 10% aqueous KOH (40 ml). The precipitate was filtered off and washed with ether (100 ml). The organic phase was washed with water (5 times 50 ml), dried (K2CO3) and evaporated to dryness to give the crude product. The isolated product was distilled to yield 16.88 g (36%) of 6-diisopropylaminohex-4-yn-1-ol: bp 116°-9° C. (0.05 mm Hg); 1H NMR (CDCl3) δ1.08(d, 12H), 1.40-1.98(m, 2H), 2.02-2.60(m, 2H), 2.83-3.44(m, 4H), 3.46-3.83(t, 2H), 4.09(s, 1H).

reactant | paraformaldehyde | 238 mmol, 7.14 g | C=O | CH2O
reactant | diisopropylamine | 262 mmol, 19.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | pent-4-yn-1-ol | 238 mmol, 20.02 g | C(CCC#C)O | C5H8O
reactant | KOH | 40 ml | [OH-].[K+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 6-diisopropylaminohex-4-yn-1-ol | 16.88 g, 36% | C(C)(C)N(CC#CCCCO)C(C)C | C12H23NO
